US06063810
(2) 2-Ethyloxycarbonyl-3-methyl-7-ethenylbenzofuran
This compound is obtained according to the process described in Example 6 for the preparation of 2,3-dimethyl-7-ethenylbenzofuran, by using 2-ethyloxycarbonyl-3-methyl-7-bromobenzofuran as starting material.

reactant | 2,3-dimethyl-7-ethenylbenzofuran | CC=1OC2=C(C1C)C=CC=C2C=C | C12H12O
reactant | 2-ethyloxycarbonyl-3-methyl-7-bromobenzofuran | C(C)OC(=O)C=1OC2=C(C1C)C=CC=C2Br | C12H11BrO3
product | 2-Ethyloxycarbonyl-3-methyl-7-ethenylbenzofuran | C(C)OC(=O)C=1OC2=C(C1C)C=CC=C2C=C | C14H14O3
